US05449686
19b. 4-(3,4-Bisdifluoromethoxyphenyl)-4-formylcyclohexan-1-one dimethyl ketal
A solution of 4-cyano-4-(3,4-bisdifluoromethoxyphenyl)cyclohexan-1-one dimethyl ketal (1.5 g, 3.98 mmol) in toluene (50 mL) at room temperature under an argon atmosphere was treated with a solution of diisobutylaluminum hydride (1M in toluene, 10 mL, 10 mmol). After 4 h, a solution of saturated aqueous sodium bisulfite was added and the mixture was extracted twice with ethyl acetate. The combined organic extract was dried (potassium carbonate) and the solvent was removed in vacuo to provide an oil (1.5 g, 99%).

reactant | 4-cyano-4-(3,4-bisdifluoromethoxyphenyl)cyclohexan-1-one dimethyl ketal | 3.98 mmol, 1.5 g | COC1(CCC(CC1)(C1=CC(=C(C=C1)OC(F)F)OC(F)F)C#N)OC | C17H19F4NO4
reactant | diisobutylaluminum hydride | 10 mmol, 1M, 10 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3,4-Bisdifluoromethoxyphenyl)-4-formylcyclohexan-1-one dimethyl ketal | 1.5 g, 99% | COC1(CCC(CC1)(C=O)C1=CC(=C(C=C1)OC(F)F)OC(F)F)OC | C17H20F4O5
